US04081440
EXAMPLE 13 -- Preparation of Methyl 3-Methyl-2-(2-chlorosulfinyl-4-oxo-3-phthalimido-1-azetidinyl)-3-butenoate
To 300 ml. of carbon tetrachloride were added 3.7 g. (10 mmole) of methyl 6-phthalimido-2,2-dimethylpenam-3-carboxylate-1-oxide and 2.2 g. (10 mmol.) of N-chloro-N-methyl-p-toluenesulfonamide. The mixture was heated at reflux for 90 minutes. The reaction mixture then was cooled to room temperature, washed with water and brine, dried over magnesium sulfate, and divided into two equal portions.

reactant | methyl 6-phthalimido-2,2-dimethylpenam-3-carboxylate-1-oxide | 10 mmole | C1(C=2C(C(N1C1[C@@H]3N(C(C(S3=O)(C)C)C(=O)OC)C1=O)=O)=CC=CC2)=O | C17H16N2O6S
reactant | N-chloro-N-methyl-p-toluenesulfonamide | 10 mmol | ClN(S(=O)(=O)C1=CC=C(C=C1)C)C | C8H10ClNO2S
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl 3-Methyl-2-(2-chlorosulfinyl-4-oxo-3-phthalimido-1-azetidinyl)-3-butenoate | CC(C(C(=O)OC)N1C(C(C1=O)N1C(C=2C(C1=O)=CC=CC2)=O)S(=O)Cl)=C | C17H15ClN2O6S
